US05969134
2-(4,6-Dimethoxy-2-pyrimidinyloxy)-3-methoxy-3,3-diphenylpropionitrile
7.3 g (28.8 mmol) of 2-hydroxy-3-methoxy-3,3-diphenylpropionitrile were dissolved in 90 ml of DMF, and 4 g (28.8 mmol) of K2CO3 and 6.3 g (28 mmol) of 2-methanesulfonyl-4,6-dimethoxypyrimidine were added. The mixture was stirred at room temperature for about 12 h, then poured into water and extracted with ethyl acetate. The combined organic phases were washed again with H2O, dried and concentrated. The residue obtained in this way was then purified by chromatography on silica gel (n-hepane/ethyl acetate).

reactant | 2-hydroxy-3-methoxy-3,3-diphenylpropionitrile | 28.8 mmol, 7.3 g | OC(C#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C16H15NO2
reactant | K2CO3 | 28.8 mmol, 4 g | C(=O)([O-])[O-].[K+].[K+]
reactant | 2-methanesulfonyl-4,6-dimethoxypyrimidine | 28 mmol, 6.3 g | CS(=O)(=O)C1=NC(=CC(=N1)OC)OC | C7H10N2O4S
reactant | water | O | H2O
solvent | DMF | 90 ml | CN(C)C=O | C3H7NO
product | 2-(4,6-Dimethoxy-2-pyrimidinyloxy)-3-methoxy-3,3-diphenylpropionitrile | COC1=NC(=NC(=C1)OC)OC(C#N)C(C1=CC=CC=C1)(C1=CC=CC=C1)OC | C22H21N3O4
